US07560467B2
(a) 2-Fluoro-N-(3-fluoro-phenyl)-5-nitro-benzamide
To a solution of 2-Fluoro-5-nitro benzoic acid (1.48 g, 8 mmol) and 3-Fluoro-phenyl-ammonium (920 μl, 8.5 mmol) in methylene chloride/DMF (10:1) 20 ml was added 10 g PS-resin (1.54 mmol/g). The reaction mixture was stirred at room temperature for overnight and then PS-resin was moved by filtration. The filtrate was evaporated to yield the title compound as a yellow solid. (1.11 g, 50%). MS (ESI) m/z=279 [M+H]+. 1H NMR (400 MHz, d6-DMSO) δ 10.89(s, 1H), 8.58-8.47(m, 1H), 7.72-7.67 (m, 1H), 7.45-7.42 (m, 1H), 7.00-6.98 (m, 1H), 6.37-6.28 (m, 2H)

reactant | 2-Fluoro-5-nitro benzoic acid | 8 mmol, 1.48 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 3-Fluoro-phenyl-ammonium | 8.5 mmol, 920 μl | FC=1C=C(C=CC1)[NH3+]
solvent | methylene chloride DMF | 20 ml | C(Cl)Cl.CN(C)C=O
product | 2-Fluoro-N-(3-fluoro-phenyl)-5-nitro-benzamide | FC1=C(C(=O)NC2=CC(=CC=C2)F)C=C(C=C1)[N+](=O)[O-] | C13H8F2N2O3
